US08389771B2
PREPARATION OF 1-((3-(3-AMINO-1-HYDROXYPROPYL)PHENYL)ETHYNYL)CYCLOHEXANOL
Deprotection of 2,2,2-trifluoro-N-(3-hydroxy-3-(3-((1-hydroxycyclohexyl)ethynyl)phenyl)propyl)acetamide was conducted following the method used in Example 18, except that the solvent was 90% MeOH-water and the reaction was stirred overnight. The reaction mixture was concentrated under reduced pressure and partitioned into EtOAc and water. The combined organics were dried over Na2SO4 and concentrated under reduced pressure. The crude material was crystallized from hot EtOAc. After cooling, the product was collected by filtration, washed with EtOAc and hexanes, and dried. Example 99 was isolated as a white solid. Yield (0.210 g, 47%): 1H NMR (400 MHz, DMSO-d6) δ 7.23-7.26 (m, 4H), 5.45 (br s, 1H), 4.68 (t, J=8.4 Hz, 1H), 2.62 (br s, 2H), 1.83-1.88 (m, 2H), 1.48-1.67 (m, 9H), 1.15-1.34 (m, 1H).

reactant | 2,2,2-trifluoro-N-(3-hydroxy-3-(3-((1-hydroxycyclohexyl)ethynyl)phenyl)propyl)acetamide | FC(C(=O)NCCC(C1=CC(=CC=C1)C#CC1(CCCCC1)O)O)(F)F | C19H22F3NO3
solvent | MeOH water | CO.O
product | 1-((3-(3-AMINO-1-HYDROXYPROPYL)PHENYL)ETHYNYL)CYCLOHEXANOL | NCCC(O)C=1C=C(C=CC1)C#CC1(CCCCC1)O | C17H23NO2
